US09169182B2
4-chloro-2,5-dimethoxybenzaldehyde.
(Wright et al., J. Am. Chem. Soc. 2008, 130, 16786-16790; Bloomer et al., J. Org. Chem. 1993, 58, 7906-7912.) To a stirred solution of 2-chloro-1,4-dimethoxybenzene (25.0 g, 0.145 mol, 1 equiv) and hexamethylene tetramine (20.5 g, 0.145 mol, 1 equiv) at room temperature was carefully added TFA (250 mL). The resulting yellow suspension was heated to 95° C. and allowed to stir for 5 h. After 5 h, the hot brown solution was poured into a 2 L Erlenmeyer flask containing approximately 250 g of crushed ice. To the vigorously stirred mixture was added solid NaHCO3 (243 g, 2.90 mol, 20 equiv) cautiously in 5-10 g portions over two hours. The resulting yellow precipitate was filtered through Celite, washed with water, and dissolved in Et2O. The organic layer was washed with water, brine, dried (MgSO4), filtered, and concentrated under reduced pressure to yield 29.0 g (100% yield) of the desired product as an off-white solid: Mp 109-109° C.; Rf 0.70 (EtOAc/hexanes, 3:7); IR (neat) 2941, 2874, 1664, 1601, 1575, 1497, 1478, 1461, 1389, 1269, 1213, 1023, 977 cm−1; 1H NMR (400 MHz, CDCl3) δ 10.35 (s, 1 H), 7.33 (s, 1 H), 3.87 (s, 6 H); 13C NMR (100 MHz, CDCl3) δ 188.4, 156.1, 149.4, 130.4, 123.4, 114.5, 109.9, 56.5, 56.3; HRMS (EI+) m/z calcd for C9H9O3Cl 200.0240, found 200.02377. Characterization matches that reported by Bloomer et al. (J. Org. Chem. 1993, 58, 7906-7912.)

reactant | 2-chloro-1,4-dimethoxybenzene | 0.145 mol, 25.0 g, 1 equiv | ClC1=C(C=CC(=C1)OC)OC | C8H9ClO2
reactant | hexamethylene tetramine | 0.145 mol, 20.5 g, 1 equiv | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | NaHCO3 | 2.90 mol, 243 g, 20 equiv | C(=O)(O)[O-].[Na+]
solvent | TFA | 250 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-chloro-2,5-dimethoxybenzaldehyde | 29.0 g, 100% yield | ClC1=CC(=C(C=O)C=C1OC)OC | C9H9ClO3
